US04259469
Preparation of N-(4-Acryloyloxybenzyl)-methanesulfonamide
To a mixture of 20.1 g (0.10 mol) of N-(4-hydroxybenzyl)methanesulfonamide, 10.1 g (0.10 mol) of triethylamine and 100 ml of methylene chloride cooled to approximately 0° C. was added a solution of 9.0 g (0.10 mol) of acryloyl chloride in 50 ml of methylene chloride over a 10-minute period. Stirring was continued for 30 minutes, and the mixture was filtered. The filtrate was washed twice with water, dried over magnesium sulfate and concentrated in a rotary evaporator. The residue was recrystallized from 100 ml of 1:1 hexane:1,2-dichloroethane. The yield of N-(4-acryloyloxybenzyl)methanesulfonamide was 8.2 g (32.1 percent of theory), m.p.=112° to 115° C.

reactant | N-(4-hydroxybenzyl)methanesulfonamide | 0.10 mol, 20.1 g | OC1=CC=C(CNS(=O)(=O)C)C=C1 | C8H11NO3S
reactant | triethylamine | 0.10 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.10 mol, 9.0 g | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Acryloyloxybenzyl)-methanesulfonamide | C(C=C)(=O)OC1=CC=C(CNS(=O)(=O)C)C=C1 | C11H13NO4S
